US06680317B2
N-(2-Bromophenyl)-N′-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″-tetrahydroisoxazylaminosulfonyl)phenyl]thiourea
Following the general procedure for protected phenyl thiourea formation outlined in example 1, N-(2-bromophenyl)-N′-[4-chloro-2-hydroxy-3-(N″-tetrahydroisoxazylaminosulfonyl)phenyl]thiourea (627 mg, 1.24 mmol), tert-butyldimethylsilyl chloride (934 mg, 6.2 mmol) and imidazole (169 mg, 2.48 mmol) were reacted to form the desired product (350 mg, 45%). EI-MS m/z 622 (M+) .

reactant | phenyl thiourea | C1(=CC=CC=C1)NC(=S)N | C7H8N2S
reactant | N-(2-bromophenyl)-N′-[4-chloro-2-hydroxy-3-(N″-tetrahydroisoxazylaminosulfonyl)phenyl]thiourea | 1.24 mmol, 627 mg | BrC1=C(C=CC=C1)NC(=S)NC1=C(C(=C(C=C1)Cl)S(=O)(=O)NC1NOCC1)O | C16H16BrClN4O4S2
reactant | tert-butyldimethylsilyl chloride | 6.2 mmol, 934 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 2.48 mmol, 169 mg | N1C=NC=C1 | C3H4N2
product | N-(2-Bromophenyl)-N′-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″-tetrahydroisoxazylaminosulfonyl)phenyl]thiourea | 350 mg, 45% | BrC1=C(C=CC=C1)NC(=S)NC1=C(C(=C(C=C1)Cl)S(=O)(=O)NC1NOCC1)O[Si](C)(C)C(C)(C)C | C22H30BrClN4O4S2Si
